* C:\Users\jeron\OneDrive\Documents\GitHub\RTTY\SPICE\AnalogToDigital.asc
XU1 0 N001 +5 -5 Vcomparator LF356
V2 +5 0 5
V3 -5 0 -5
XU2 0 N002 +5 -5 Vout LF356
R2 N002 Vcomparator 20k
R4 Vout N002 10k
R3 N002 -5 27k
V4 -3.5 0 -3.5
R5 P001 Vin 10k
C1 N001 P001 0.1µF
V5 NC_01 0 0
Vin Vin 0 SINE(0 1 2125)
.tran 0.005
.lib LF356.sub
.backanno
.end
